US08222416B2
To a mixture of 5-nitro-1H-pyrrolo[2,3-b]pyridine (2.0 g, 12.3 mmol), triethylamine (2.48 g, 24.6 mmol), 4-dimethylaminopyridine (0.15 g, 1.23 mmol) in dichloromethane/N,N-dimethylformamide (1:1, 60 mL) was added benzenesulfonyl chloride (3.25 g, 18.4 mmol) at 0° C. After stirring for 48 h at room temperature, the reaction was quenched with water (50 mL) and extracted with dichloromethane (2×120 mL). The organic layer was washed with a saturated sodium bicarbonate (2×30 mL), water (2×30 mL), brine (50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 33% dichloromethane/hexanes) to afford 1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridine (2.8 g, 76%) as a yellow solid: LC/MS m/e calcd for C13H9N3O4S [M+H]+ 304.30, observed 303.9.

reactant | 5-nitro-1H-pyrrolo[2,3-b]pyridine | 12.3 mmol, 2.0 g | [N+](=O)([O-])C=1C=C2C(=NC1)NC=C2 | C7H5N3O2
reactant | triethylamine | 24.6 mmol, 2.48 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 18.4 mmol, 3.25 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | 4-dimethylaminopyridine | 1.23 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane N,N-dimethylformamide | 60 mL | ClCCl.CN(C=O)C
product | 1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridine | 2.8 g, 76% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)[N+](=O)[O-] | C13H9N3O4S
